US04435404
Into 100 ml of chloroform were added 3.7 g of 6-{3-[N-(2-hydroxyethyl)-N-cyclohexylaminocarbonyl]propoxy}carbostyril and 1.8 ml of triethylamine and the outside of the reaction vessel containing said mixture was ice-cooled. Then 1.4 ml of benzoyl chloride was added dropwise to the mixture under stirring condition. After the addition operation the reaction mixture was further stirred at room temperature for 1 hour. Then the reaction mixture was washed with 5% NaHCO3 aqueous solution, diluted hydrochloric acid and water in this order, then dried with anhydrous sodium sulfate. The drying agent was removed by filtration and the mother liquor is concentrated. The residue thus obtained is treated by a silica-gel column chromatography [the solvent used was a mixture of chloroform:methanol 30:1 (v/v)] and the elute was recrystallized from chloroform-petroleum ether to obtain 3.0 g of 6-{3-[N-(2-benzoyloxyethyl)-N-cyclohexylaminocarbonyl]propoxy}carbostyril as in the form of colorless needle-like crystals. Melting point: 94°-96° C.

reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 6-{3-[N-(2-hydroxyethyl)-N-cyclohexylaminocarbonyl]propoxy}carbostyril | 3.7 g | OCCN(C(=O)CCCOC=1C=C2C=CC(NC2=CC1)=O)C1CCCCC1 | C21H28N2O4
reactant | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 1.4 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 6-{3-[N-(2-benzoyloxyethyl)-N-cyclohexylaminocarbonyl]propoxy}carbostyril | 3.0 g | C(C1=CC=CC=C1)(=O)OCCN(C(=O)CCCOC=1C=C2C=CC(NC2=CC1)=O)C1CCCCC1 | C28H32N2O5
